US04642313
12.0 g of N-(4-methylbenzoyl)-(2-furylcarbonyl)methylamine, 2.3 g of 61% sodium hydride and 9.1 g of ethyl bromoacetate are treated in the same manner as described in Preparation 1-(2). 13.9 g of ethyl 3-(4-methylbenzoylamino)-3-(2-furylcarbonyl)propionate are thereby obtained. Yield: 85.5%

reactant | N-(4-methylbenzoyl)-(2-furylcarbonyl)methylamine | 12.0 g | CC1=CC=C(C(=O)NCC(=O)C=2OC=CC2)C=C1 | C14H13NO3
reactant | sodium hydride | 2.3 g | [H-].[Na+]
reactant | ethyl bromoacetate | 9.1 g | BrCC(=O)OCC | C4H7BrO2
product | ethyl 3-(4-methylbenzoylamino)-3-(2-furylcarbonyl)propionate | 13.9 g, Yield: 85.5% | CC1=CC=C(C(=O)NC(CC(=O)OCC)C(=O)C=2OC=CC2)C=C1 | C18H19NO5
